*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 4.0
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_0 1 2 3 4 REF
C_C1 1 REF 0.3646346186061pf
C_C2 1 2 16.695437998167pf
C_C3 1 4 0.2290666573203pf
C_C4 2 REF 0.573998231291pf
C_C5 2 3 0.1149702071302pf
C_C6 3 REF 0.4109356016157pf
C_C7 3 4 7.0593267142961pf
C_C8 4 REF 0.4070692891251pf
L_L1 3 5 1.305378122754nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_1 1 2 3 4 REF
C_C1 1 REF 0.3684992469708pf
C_C2 1 2 16.794536977899pf
C_C3 1 4 0.2294136765348pf
C_C4 2 REF 0.5807178693371pf
C_C5 2 3 0.1131834858353pf
C_C6 3 REF 0.411085435076pf
C_C7 3 4 5.2279209723737pf
C_C8 4 REF 0.4064212824024pf
L_L1 3 5 1.306870449686nh
R_RL1 5 4 3.046978054e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_2 1 2 3 4 REF
C_C1 1 REF 0.3621391223333pf
C_C2 1 2 16.92368218472pf
C_C3 1 4 0.2303299497947pf
C_C4 2 REF 0.5776459729677pf
C_C5 2 3 0.1120295107021pf
C_C6 3 REF 0.4110791318581pf
C_C7 3 4 3.9496169737861pf
C_C8 4 REF 0.4059663743296pf
L_L1 3 5 1.3081127581904nh
R_RL1 5 4 1.8761698811e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_3 1 2 3 4 REF
C_C1 1 REF 0.3489562898086pf
C_C2 1 2 17.129002624596pf
C_C3 1 3 0.0102975234066pf
C_C4 1 4 0.2321731036556pf
C_C5 2 REF 0.5691519431652pf
C_C6 2 3 0.1112350541592pf
C_C7 3 REF 0.4109848197859pf
C_C8 3 4 2.8502552527406pf
C_C9 4 REF 0.4055861641513pf
L_L1 3 5 1.3093690288838nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_4 1 2 3 4 REF
C_C1 1 REF 0.3328291778446pf
C_C2 1 2 17.43238581844pf
C_C3 1 3 0.0107463509509pf
C_C4 1 4 0.2352009495901pf
C_C5 2 REF 0.5593090112172pf
C_C6 2 3 0.110949444613pf
C_C7 3 REF 0.41085059855pf
C_C8 3 4 1.9698338617945pf
C_C9 4 REF 0.4053064098325pf
L_L1 3 5 1.310623070171nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_5 1 2 3 4 REF
C_C1 1 REF 0.3191306551918pf
C_C2 1 2 17.803350851092pf
C_C3 1 3 0.0105990088165pf
C_C4 1 4 0.2391015199066pf
C_C5 2 REF 0.5526541172802pf
C_C6 2 3 0.1112450211037pf
C_C7 3 REF 0.4107351212105pf
C_C8 3 4 1.3878037121923pf
C_C9 4 REF 0.405152468566pf
L_L1 3 5 1.3116342077586nh
R_RL1 5 4 -2.22702256e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_6 1 2 3 4 REF
C_C1 1 REF 0.308347671336pf
C_C2 1 2 18.245149094475pf
C_C3 1 4 0.2438597761862pf
C_C4 2 REF 0.5496965916105pf
C_C5 2 3 0.1120250411981pf
C_C6 3 REF 0.4106479642902pf
C_C7 3 4 0.9895487137009pf
C_C8 4 REF 0.4050770096068pf
L_L1 3 5 1.3124630243557nh
R_RL1 5 4 -3.340037256e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_7 1 2 3 4 REF
C_C1 1 REF 0.2987429434896pf
C_C2 1 2 18.861388783372pf
C_C3 1 4 0.2505784537297pf
C_C4 2 REF 0.5503630485779pf
C_C5 2 3 0.1135011309359pf
C_C6 3 REF 0.4105752771348pf
C_C7 3 4 0.6721631311774pf
C_C8 4 REF 0.4050502979648pf
L_L1 3 5 1.3132425475044nh
R_RL1 5 4 -4.388769048e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_8 1 2 3 4 REF
C_C1 1 REF 0.2901821916108pf
C_C2 1 2 19.696934757494pf
C_C3 1 4 0.2597371001896pf
C_C4 2 REF 0.5550394968228pf
C_C5 2 3 0.1158454570227pf
C_C6 3 REF 0.4105132161926pf
C_C7 3 4 0.428124709864pf
C_C8 4 REF 0.4050643141084pf
L_L1 3 5 1.3139755478998nh
R_RL1 5 4 -5.309504377e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_9 1 2 3 4 REF
C_C1 1 REF 0.2818047485pf
C_C2 1 2 20.841453020764pf
C_C3 1 4 0.2722992833144pf
C_C4 2 REF 0.5640222425631pf
C_C5 2 3 0.1193829668063pf
C_C6 3 REF 0.4104495258647pf
C_C7 3 4 0.2485894375378pf
C_C8 4 REF 0.405111401068pf
L_L1 3 5 1.3146230269567nh
R_RL1 5 4 -5.959046212e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_10 1 2 3 4 REF
C_C1 1 REF 0.2722234466445pf
C_C2 1 2 22.387909470555pf
C_C3 1 4 0.2892551050888pf
C_C4 2 REF 0.5771450360489pf
C_C5 2 3 0.1244429555674pf
C_C6 3 REF 0.4103674560861pf
C_C7 3 4 0.1188829541127pf
C_C8 4 REF 0.4051825133529pf
L_L1 1 5 95.462306208477nh
R_RL1 5 2 6.9804871117267
L_L2 3 6 1.3151880772789nh
R_RL2 6 4 -6.260442387e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_11 1 2 3 4 REF
C_C1 1 REF 0.2594717052047pf
C_C2 1 2 24.523612472452pf
C_C3 1 4 0.3126210091114pf
C_C4 2 REF 0.5949700558133pf
C_C5 2 3 0.1317005261851pf
C_C6 3 REF 0.4102473950255pf
C_C7 3 4 0.027967165529pf
C_C8 4 REF 0.4052771662593pf
L_L1 1 5 57.245579693893nh
R_RL1 5 2 5.294585128393
L_L2 3 6 1.3156285720168nh
R_RL2 6 4 -6.102690168e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_12 1 2 3 4 REF
C_C1 1 REF 0.2413199968142pf
C_C2 1 2 27.485425476528pf
C_C3 1 4 0.3449483594658pf
C_C4 2 REF 0.6184861793347pf
C_C5 2 3 0.1420158762574pf
C_C6 3 REF 0.4100735614988pf
C_C7 4 REF 0.4054036643659pf
L_L1 1 5 32.357448504605nh
R_RL1 5 2 3.279073640806
L_L2 3 6 1.3156830239364nh
R_RL2 6 4 -5.439081178e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_13 1 2 3 4 REF
C_C1 1 REF 0.2140439769799pf
C_C2 1 2 31.767293327868pf
C_C3 1 4 0.3915633075389pf
C_C4 2 REF 0.6507018331249pf
C_C5 2 3 0.1571746616241pf
C_C6 3 REF 0.4098263038121pf
C_C7 4 REF 0.4055909028348pf
L_L1 1 5 36.74014800931nh
R_RL1 5 2 -7.185104572898
L_L2 3 6 1.315403997331nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_14 1 2 3 4 REF
C_C1 1 REF 0.17213705258pf
C_C2 1 2 38.154628063678pf
C_C3 1 4 0.4608945122329pf
C_C4 2 REF 0.6968365731206pf
C_C5 2 3 0.1799642399312pf
C_C6 3 REF 0.4094871113158pf
C_C7 4 REF 0.405893440482pf
R_R1 1 2 -525.4983178198
L_L1 1 5 13.853931457668nh
R_RL1 5 2 2.0743706978537
L_L2 3 6 1.3149386245261nh
R_RL2 6 4 -2.424967533e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_15 1 2 3 4 REF
C_C1 1 REF 0.1031373278273pf
C_C2 1 2 48.47422780202pf
C_C3 1 4 0.5725158706417pf
C_C4 2 REF 0.7694019686514pf
C_C5 2 3 0.2167992377576pf
C_C6 3 REF 0.4090134319548pf
C_C7 4 REF 0.4064396608241pf
R_R1 1 2 -359.8875718139
L_L1 1 5 7.5853911475828nh
R_RL1 5 2 0.7824344408737
L_L2 3 6 1.314141627787nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_16 1 2 3 4 REF
C_C1 1 2 68.411067086207pf
C_C2 1 4 0.7874788640708pf
C_C3 2 REF 0.907521263208pf
C_C4 2 3 0.2876949784724pf
C_C5 3 REF 0.4082559925908pf
C_C6 4 REF 0.4076259430261pf
R_R1 1 2 -242.9684053168
L_L1 1 5 3.2993541480845nh
R_RL1 5 2 0.262300241877
L_L2 3 6 1.3126263887474nh
R_RL2 6 4 1.9119201994e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_17 1 2 3 4 REF
C_C1 1 2 116.50781092042pf
C_C2 1 4 1.3052339815425pf
C_C3 2 REF 1.2382847179748pf
C_C4 2 3 0.4581887691247pf
C_C5 3 REF 0.4067623685529pf
C_C6 4 REF 0.410807790093pf
R_R1 1 2 -151.060454713
L_L1 1 5 1.2826968142284nh
R_RL1 5 2 0.0815139877627
L_L2 1 6 57.59550771574nh
R_RL2 6 3 0.0488561888478
L_L3 1 7 56.861442381211nh
R_RL3 7 4 0.0493454714483
L_L4 2 8 57.694596245921nh
R_RL4 8 3 0.0045840267029
L_L5 2 9 56.963617828475nh
R_RL5 9 4 0.0044223408355
L_L6 3 10 1.3090791486598nh
R_RL6 10 4 4.132809902e-5
Kn_K1 L_L1 L_L2 0.0688528127967
Kn_K2 L_L1 L_L3 0.0691150954759
Kn_K3 L_L1 L_L4 -0.08031210503
Kn_K4 L_L1 L_L5 -0.081006325145
Kn_K5 L_L2 L_L3 0.9885830257714
Kn_K6 L_L2 L_L4 0.9888745463659
Kn_K7 L_L2 L_L5 0.9773640065729
Kn_K8 L_L2 L_L6 -0.117649971273
Kn_K9 L_L3 L_L4 0.9774282726254
Kn_K10 L_L3 L_L5 0.9887313789287
Kn_K11 L_L3 L_L6 0.0333239438424
Kn_K12 L_L4 L_L5 0.9886028611595
Kn_K13 L_L4 L_L6 -0.117371297314
Kn_K14 L_L5 L_L6 0.0334727803999
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_18 1 2 3 4 REF
C_C1 1 2 307.73832402852pf
C_C2 1 4 3.3637547486708pf
C_C3 2 REF 2.5492779200068pf
C_C4 2 3 1.1354770430898pf
C_C5 3 REF 0.4017320789685pf
C_C6 4 REF 0.4244542003375pf
R_R1 1 2 -71.88971846205
L_L1 1 5 41.987137308355nh
R_RL1 5 REF -0.025430376391
L_L2 1 6 0.329358112734nh
R_RL2 6 2 0.0146086154009
L_L3 1 7 17.36413800705nh
R_RL3 7 3 0.0084378953256
L_L4 1 8 16.680010824374nh
R_RL4 8 4 0.0087270598733
L_L5 2 9 41.744394107589nh
R_RL5 9 REF -0.010439326444
L_L6 2 10 17.426514154466nh
R_RL6 10 3 0.0010013652815
L_L7 2 11 16.746561180276nh
R_RL7 11 4 8.7876135476e-4
L_L8 3 12 58.964050713981nh
R_RL8 12 REF -0.017583423811
L_L9 3 13 1.2951608795353nh
R_RL9 13 4 5.6566406328e-5
L_L10 4 14 58.27102961689nh
R_RL10 14 REF -0.017261667364
Kn_K1 L_L1 L_L2 0.0769220117405
Kn_K2 L_L1 L_L5 0.996070684188
Kn_K3 L_L1 L_L8 0.8399573106145
Kn_K4 L_L1 L_L10 0.8448474765363
Kn_K5 L_L2 L_L3 0.055820167181
Kn_K6 L_L2 L_L4 0.0560629358753
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.08175646696
Kn_K9 L_L2 L_L7 -0.084288396711
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9621507202133
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9905347354989
Kn_K15 L_L3 L_L7 0.9524088268458
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.208684664835
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9527198799226
Kn_K21 L_L4 L_L7 0.9901487799492
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0657317420556
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.839320928521
Kn_K26 L_L5 L_L10 0.8441647429708
Kn_K27 L_L6 L_L7 0.9622904673109
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.207871532984
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0660491499414
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1137550333978
Kn_K35 L_L8 L_L10 0.9889697256434
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_19 1 2 3 4 REF
C_C1 1 REF 41.961534069911pf
C_C2 1 3 21.548128112572pf
C_C3 2 4 65.309961246688pf
C_C4 3 REF 0.5557564423257pf
R_R1 1 REF -172.5117298017
R_R2 1 2 1.1851468495434
R_R3 1 3 -334.9560229852
R_R4 1 4 109.89647032136
R_R5 2 REF 172.55623172589
R_R6 2 3 335.08299659799
R_R7 2 4 -109.9371987964
L_L1 1 5 1.4239399292965nh
R_RL1 5 REF -3.814164579e-5
L_L2 1 6 0.0567654362708nh
R_RL2 6 2 -0.040356130793
L_L3 1 7 1.2308555974063nh
R_RL3 7 3 -0.012313742842
L_L4 1 8 0.761895462636nh
R_RL4 8 4 -0.0273857174
L_L5 2 9 1.4633320825151nh
R_RL5 9 REF -0.041937812454
L_L6 2 10 1.2269012781898nh
R_RL6 10 3 -8.055271022e-3
L_L7 2 11 0.7374501094927nh
R_RL7 11 4 -1.250722986e-3
L_L8 3 12 2.6462144556935nh
R_RL8 12 REF -0.013205916945
L_L9 3 13 0.9629666521825nh
R_RL9 13 4 -2.935194545e-3
L_L10 4 14 2.1822615451435nh
R_RL10 14 REF -0.028696080657
Kn_K1 L_L1 L_L2 0.0305537186764
Kn_K2 L_L1 L_L5 0.9804306759518
Kn_K3 L_L1 L_L8 0.7313457607239
Kn_K4 L_L1 L_L10 0.8067650753724
Kn_K5 L_L2 L_L3 0.1148562085349
Kn_K6 L_L2 L_L4 0.1952513533724
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.100057249119
Kn_K9 L_L2 L_L7 -0.07898309744
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0438214014813
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5316980530813
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9769048235729
Kn_K16 L_L3 L_L7 0.5085725108256
Kn_K17 L_L3 L_L8 0.7866200829526
Kn_K18 L_L3 L_L9 -0.657630037432
Kn_K19 L_L3 L_L10 0.8677395078964
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.4905559449921
Kn_K22 L_L4 L_L7 0.9622677619469
Kn_K23 L_L4 L_L8 0.9998178566491
Kn_K24 L_L4 L_L9 0.2883695272862
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0164260440378
Kn_K27 L_L5 L_L8 0.7324487455818
Kn_K28 L_L5 L_L9 -0.010739979367
Kn_K29 L_L5 L_L10 0.8136937733303
Kn_K30 L_L6 L_L7 0.526380557428
Kn_K31 L_L6 L_L8 0.799915067218
Kn_K32 L_L6 L_L9 -0.668114873445
Kn_K33 L_L6 L_L10 0.8886436263486
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.2809520742862
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.4469421911497
Kn_K38 L_L8 L_L10 0.804286563889
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_20 1 2 3 4 REF
C_C1 1 2 4330.2806271053pf
C_C2 1 4 46.674303750893pf
C_C3 2 REF 30.100244141864pf
C_C4 2 3 15.381904121679pf
C_C5 3 REF 0.3030893844196pf
C_C6 3 4 0.0106818016702pf
C_C7 4 REF 0.7198414180848pf
R_R1 1 REF 213.9620154994
R_R2 1 2 -1.469469413147
R_R3 1 3 415.3193496085
R_R4 1 4 -136.3013745695
R_R5 2 REF -214.0523638308
R_R6 2 3 -415.476389089
R_R7 2 4 136.35278402456
L_L1 1 5 1.6486702393947nh
R_RL1 5 REF 1.0e-5
L_L2 1 6 0.0109340437807nh
R_RL2 6 2 0.0016718147025
L_L3 1 7 1.3501842205313nh
R_RL3 7 3 5.6082040774e-4
L_L4 1 8 0.8371900886694nh
R_RL4 8 4 0.0011108343621
L_L5 2 9 1.6372045130864nh
R_RL5 9 REF 0.0016786847078
L_L6 2 10 1.3517885776875nh
R_RL6 10 3 3.1080406076e-4
L_L7 2 11 0.844155633235nh
R_RL7 11 4 5.8432051971e-5
L_L8 3 12 2.986218890287nh
R_RL8 12 REF 5.6149341874e-4
L_L9 3 13 1.0005856815556nh
R_RL9 13 4 1.1122890384e-4
L_L10 4 14 2.4678018618796nh
R_RL10 14 REF 0.0011150262616
Kn_K1 L_L1 L_L2 0.0834173255205
Kn_K2 L_L1 L_L5 0.9966784778049
Kn_K3 L_L1 L_L8 0.7401822145951
Kn_K4 L_L1 L_L10 0.8128805424937
Kn_K5 L_L2 L_L3 0.0383928314662
Kn_K6 L_L2 L_L4 0.0207392888208
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.051566465756
Kn_K9 L_L2 L_L7 -0.093156117891
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.025627925165
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5581293065023
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.995953486503
Kn_K16 L_L3 L_L7 0.5514523612375
Kn_K17 L_L3 L_L8 0.8179166153358
Kn_K18 L_L3 L_L9 -0.651105966807
Kn_K19 L_L3 L_L10 0.8982497672584
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5559327837941
Kn_K22 L_L4 L_L7 0.9935053756522
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2663710322644
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7398139924195
Kn_K27 L_L5 L_L10 0.8111371908539
Kn_K28 L_L6 L_L7 0.5595031570257
Kn_K29 L_L6 L_L8 0.8141784842974
Kn_K30 L_L6 L_L9 -0.648414586616
Kn_K31 L_L6 L_L10 0.8926709353615
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2681864819739
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4393803109695
Kn_K36 L_L8 L_L10 0.8202555285085
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_21 1 2 3 4 REF
C_C1 1 2 143.33458190709pf
C_C2 1 4 1.588126865815pf
C_C3 2 REF 1.4270574246261pf
C_C4 2 3 0.5536455974508pf
C_C5 3 REF 0.4039835799377pf
C_C6 4 REF 0.4102524633521pf
R_R1 1 2 -126.8268784813
L_L1 1 5 74.074132289459nh
R_RL1 5 REF 0.0230829311585
L_L2 1 6 0.2334778764516nh
R_RL2 6 2 0.0106408950008
L_L3 1 7 22.048741328071nh
R_RL3 7 3 0.0066857384835
L_L4 1 8 21.33070251992nh
R_RL4 8 4 0.0068826948626
L_L5 2 9 73.295071578295nh
R_RL5 9 REF 0.0359388670251
L_L6 2 10 22.221967580103nh
R_RL6 10 3 1.5484024754e-4
L_L7 2 11 21.512251944886nh
R_RL7 11 4 1.213218279e-4
L_L8 3 12 95.65930881654nh
R_RL8 12 REF 0.0321249512555
L_L9 3 13 1.296915875262nh
R_RL9 13 4 -1.613604634e-5
L_L10 4 14 94.926042146073nh
R_RL10 14 REF 0.032352035811
Kn_K1 L_L1 L_L2 0.1217377956831
Kn_K2 L_L1 L_L5 0.9984296457135
Kn_K3 L_L1 L_L8 0.8772201583446
Kn_K4 L_L1 L_L10 0.8805109330509
Kn_K5 L_L2 L_L3 0.0132777349818
Kn_K6 L_L2 L_L4 0.0116345590876
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.089275946482
Kn_K9 L_L2 L_L7 -0.092593577856
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9702359096693
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9947337470222
Kn_K15 L_L3 L_L7 0.9647498945957
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.18840285652
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9652543217623
Kn_K21 L_L4 L_L7 0.9945593083498
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0550297913878
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8761834736844
Kn_K26 L_L5 L_L10 0.8794198790556
Kn_K27 L_L6 L_L7 0.9704733056208
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.186891897786
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0555849715616
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0911350783989
Kn_K35 L_L8 L_L10 0.9932024426297
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_22 1 2 3 4 REF
C_C1 1 REF 0.1733794191841pf
C_C2 1 2 41.78713176266pf
C_C3 1 4 0.4959139805662pf
C_C4 2 REF 0.7383681710143pf
C_C5 2 3 0.1928758658743pf
C_C6 3 REF 0.4055593013698pf
C_C7 4 REF 0.4018009434458pf
L_L1 1 5 0.6423755414892nh
R_RL1 5 2 0.0069105600031
L_L2 1 6 79.194862134958nh
R_RL2 6 3 0.0138604834269
L_L3 1 7 78.270088452873nh
R_RL3 7 4 0.0138789740158
L_L4 2 8 80.132456469899nh
R_RL4 8 3 -1.025825085e-3
L_L5 2 9 79.215505527595nh
R_RL5 9 4 -1.020741526e-3
L_L6 3 10 1.3066299547182nh
R_RL6 10 4 -4.060567206e-5
Kn_K1 L_L1 L_L2 -0.020695265548
Kn_K2 L_L1 L_L3 -0.021368781005
Kn_K3 L_L1 L_L4 -0.110108306882
Kn_K4 L_L1 L_L5 -0.111292060944
Kn_K5 L_L2 L_L3 0.9917191929481
Kn_K6 L_L2 L_L4 0.9959854476611
Kn_K7 L_L2 L_L5 0.9876471033027
Kn_K8 L_L2 L_L6 -0.109678962147
Kn_K9 L_L3 L_L4 0.9878135310281
Kn_K10 L_L3 L_L5 0.9959389982191
Kn_K11 L_L3 L_L6 0.0188797272519
Kn_K12 L_L4 L_L5 0.9918165676035
Kn_K13 L_L4 L_L6 -0.108653170958
Kn_K14 L_L5 L_L6 0.0191511834351
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_23 1 2 3 4 REF
C_C1 1 REF 0.3398388137165pf
C_C2 1 2 18.140315439456pf
C_C3 1 3 0.0273110563966pf
C_C4 1 4 0.2415428607157pf
C_C5 2 REF 0.5836888208702pf
C_C6 2 3 0.1075749188335pf
C_C7 3 REF 0.4050326370834pf
C_C8 4 REF 0.3988360728898pf
L_L1 1 5 1.005479412688nh
R_RL1 5 2 2.9926218731e-4
L_L2 3 6 1.3075225931592nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_24 1 2 3 4 REF
C_C1 1 REF 0.4015217605998pf
C_C2 1 2 10.171981896751pf
C_C3 1 3 0.0605265615794pf
C_C4 1 4 0.1543057265082pf
C_C5 2 REF 0.5364442659529pf
C_C6 2 3 0.0773952946292pf
C_C7 3 REF 0.4038628868775pf
C_C8 4 REF 0.3967045665528pf
L_L1 1 5 1.4563893556798nh
R_RL1 5 2 7.213309145e-5
L_L2 3 6 1.3054056233846nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_25 1 2 3 4 REF
C_C1 1 REF 0.4331027127929pf
C_C2 1 2 6.8514517384874pf
C_C3 1 3 0.0794239373959pf
C_C4 1 4 0.1160971783555pf
C_C5 2 REF 0.5230425248597pf
C_C6 2 3 0.0623198778062pf
C_C7 2 4 0.0355835024457pf
C_C8 3 REF 0.4022064246937pf
C_C9 4 REF 0.3944787867723pf
L_L1 1 5 1.8010551715784nh
R_RL1 5 2 4.4873932103e-4
L_L2 3 6 1.3028627877462nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_26 1 2 3 4 REF
C_C1 1 REF 0.4472321728821pf
C_C2 1 2 5.7903407689103pf
C_C3 1 3 0.0895617432092pf
C_C4 1 4 0.1022717023761pf
C_C5 2 REF 0.5233428195234pf
C_C6 2 3 0.0552187480847pf
C_C7 2 4 0.0526180301837pf
C_C8 3 REF 0.4008374759408pf
C_C9 4 REF 0.3928004836155pf
L_L1 1 5 1.9109759322448nh
R_RL1 5 2 8.7049135e-5
L_L2 3 6 1.3017652738735nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param39_26

